US06130351
Cycle 1: A pressure reactor was charged with N-acetyliminodiacetic acid monohydrate (19.3 g), water (16.6 g), phosphorous acid (9.8 g) and methanesulfonic acid (15 g). The mixture was heated to 120° C. and 42% formaldehyde (6.9 mL) was added drop wise over a 3/4 hour period. After another 3/4 hour at 120° C. the mixture was cooled. The mixture was filtered and the solid was washed with water to give 17.6 g of N-(phosphonomethyl)iminodiacetic acid.

reactant | N-acetyliminodiacetic acid monohydrate | 19.3 g | O.C(C)(=O)N(CC(=O)O)CC(=O)O
reactant | phosphorous acid | 9.8 g | P(O)(O)O | H3O3P
reactant | methanesulfonic acid | 15 g | CS(=O)(=O)O | CH4O3S
reactant | formaldehyde | 6.9 mL | C=O | CH2O
solvent | water | 16.6 g | O | H2O
product | N-(phosphonomethyl)iminodiacetic acid | 17.6 g | P(=O)(O)(O)CN(CC(=O)O)CC(=O)O | C5H10NO7P
